US05968985
To a solution of 2-hydroxy-6-trimethylsilylbenzaldehyde (8.1 g) in carbon tetrachloride (160 ml) was added bromine (2.15 ml) dropwise at 0° C., and the mixture was stirred at room temperature overnight. To the mixture was added aqueous sodium hydrogencarbonate solution, and the layers were separated. The aqueous layer was extracted with dichloromethane and the organic layers were combined, washed with sodium thiosulfate solution, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with a mixture of hexane and toluene (4:1) to afford 6-bromo-2-hydroxybenzaldehyde (4.74 g).

reactant | 2-hydroxy-6-trimethylsilylbenzaldehyde | 8.1 g | OC1=C(C=O)C(=CC=C1)[Si](C)(C)C | C10H14O2Si
reactant | bromine | 2.15 ml | BrBr | Br2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | carbon tetrachloride | 160 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6-bromo-2-hydroxybenzaldehyde | 4.74 g | BrC1=CC=CC(=C1C=O)O | C7H5BrO2
